US04191683
49.0 g of maleic anhydride in 300 ml of dioxane are heated to 80° C. At this temperature 99.2 g of 2,6-diethyl-2,3,6-trimethyl-4-aminopiperidine are added dropwise in the course of 30 minutes. After a short time a light brown precipitate is formed. The reaction is continued for 1 hour at reflux temperature. The reaction mixture is then cooled to room temperature, and the precipitate is filtered off. The resultant residue is dissolved in 500 ml of warm water. A brownish solution is formed which is discoloured with active carbon, and then evaporated to dryness under vacuo. The solid residue is suspended in about 200 ml of warm ethanol, the suspension is cooled to room temperature, filtered and dried. 2,6-Diethyl-2,3,6-trimethyl-4-β-carboxy-acrylamidopiperidine (compound no. 42) is obtained: m.p. >250° C. If, instead of 49.0 g of maleic anhydride an equivalent amount of phthalic anhydride is used and otherwise the procedure described above if followed, 2,6-diethyl-2,3,6-trimethyl-4-o-carboxybenzamidopiperidine (compound no. 43 ) is obtained; m.p. 196°-197° C.

reactant | maleic anhydride | 49.0 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 2,6-diethyl-2,3,6-trimethyl-4-aminopiperidine | 99.2 g | C(C)C1(NC(CC(C1C)N)(C)CC)C | C12H26N2
reactant | maleic anhydride | 49.0 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 2,6-diethyl-2,3,6-trimethyl-4-o-carboxybenzamidopiperidine | C(C)C1(NC(CC(C1C)NC(C1=C(C=CC=C1)C(=O)O)=O)(C)CC)C | C20H30N2O3
